US08293768B2
Synthesis of ethyl 2-(3-(4-fluorobenzyl)-2-oxotetrahydropyrimidin-1(2H)-yl)-4-methylthiazole-5-carboxylate
Following the procedure as described in Example 13, making variations as required to replace 4-(trifluoromethyl)benzyl bromide with 1-(bromomethyl)-4-fluorobenzene to react with ethyl 4-methyl-2-(2-oxotetrahydropyrimidin-1(2H)-yl)thiazole-5-carboxylate, the title compound was obtained as a colorless solid in quantitative yield: MS (ES+) m/z 378.2 (M+1).

reactant | 4-(trifluoromethyl)benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | 1-(bromomethyl)-4-fluorobenzene | BrCC1=CC=C(C=C1)F | C7H6BrF
reactant | ethyl 4-methyl-2-(2-oxotetrahydropyrimidin-1(2H)-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(NCCC1)=O | C11H15N3O3S
product | ethyl 2-(3-(4-fluorobenzyl)-2-oxotetrahydropyrimidin-1(2H)-yl)-4-methylthiazole-5-carboxylate | quantitative yield | FC1=CC=C(CN2C(N(CCC2)C=2SC(=C(N2)C)C(=O)OCC)=O)C=C1 | C18H20FN3O3S
